US05696151
To a refluxing well-stirred suspension of iron powder (19.6 g, 100 mesh) in ethanol (60 mL), water (13.4 mL) and 36% hydrochloric acid (1.4 mL) was added 1-chloro-2-(3-methyl-2-butenyloxy)-4-nitrobenzene (24 g) in portions over 15-30 minutes. After 3 hours thin-layer chromotography (TLC) (ethyl acetate:hexane, 40:60) showed no substrate. The reaction mixture was then filtered hot and the iron oxide filter cake was washed with hot ethanol. The combined ethanol washes were evaporated to produce a residue. The residue was taken up in diethyl ether, washed with aqueous bicarbonate and water, dried (MgSO4), filtered, and evaporated, to give 4-chloro-3-(3-methyl-2-butenyloxy)benzenamine, 19.8 g of light brown oil.

reactant | 1-chloro-2-(3-methyl-2-butenyloxy)-4-nitrobenzene | 24 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OCC=C(C)C | C11H12ClNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 13.4 mL | O | H2O
solvent | hydrochloric acid | 1.4 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | iron | 19.6 g | [Fe] | Fe
product | 4-chloro-3-(3-methyl-2-butenyloxy)benzenamine | ClC1=C(C=C(C=C1)N)OCC=C(C)C | C11H14ClNO
